US07528147B2
A solution of 2-[1-(2-chloroethyl)-5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (0.331 g; 649 μmol), described in example 1, and sodium iodide (0.195 g; 1.298 mmol) in methyl ethyl ketone (5 ml) is placed in a 10 ml round-bottomed flask. The reaction mixture is brought to reflux for 16 hours. After evaporation, the product is taken up in a mixture of water (15 ml) and ethyl acetate (15 ml). After separation by settling out and extraction with ethyl acetate (2×15 ml), the organic extracts are combined, dried over magnesium sulfate, and then evaporated under reduced pressure. The evaporation residue is chromatographed on silica gel, elution being carried out with a mixture of cyclohexane and ethyl acetate (50/50). The fractions containing the expected compound are combined and evaporated, giving 2-[1-(2-iodoethyl)-5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (0.24 g; 69%), the characteristics of which are as follows:

reactant | 2-[1-(2-chloroethyl)-5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 649 μmol, 0.331 g | ClCCN1C=C(C2=CC(=C(C=C12)OC)OC)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C26H24ClN3O4S
reactant | sodium iodide | 1.298 mmol, 0.195 g | [I-].[Na+]
solvent | methyl ethyl ketone | 5 ml | C(C)C(=O)C | C4H8O
product | 2-[1-(2-iodoethyl)-5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.24 g, 69% | ICCN1C=C(C2=CC(=C(C=C12)OC)OC)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C26H24IN3O4S
